US07427612B2
(2-Fluoro-5-nitro-phenyl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 46 from 2-Fluoro-5-nitro-benzoyl chloride and 1-(2-fluorophenyl)-piperazine (52%, orange solid, MS (m/e): 348.1 (M+H, 100%)

reactant | 2-Fluoro-5-nitro-benzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | 1-(2-fluorophenyl)-piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
product | (2-Fluoro-5-nitro-phenyl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | FC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C17H15F2N3O3
